US08669361B2
Reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and tert-butyl 4-aminopiperidine-1-carboxylate gave tert-butyl 4-(1-methyl-4-nitro-1H-pyrazol-5-ylamino)piperidine-1-carboxylate as a pale yellow solid (0.23 g, 57%). 1H NMR (400 MHz, CDCl3) δ 7.91 (s, 1H), 6.40 (d, J=9.8 Hz, 1H), 4.06-3.95 (m, 2H), 3.81 (s, 3H), 3.70-3.59 (m, 1H), 3.05-2.93 (m, 2H), 2.00-1.92 (m, 2H), 1.60-1.50 (m, 2H), 1.49 (s, 9H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
product | tert-butyl 4-(1-methyl-4-nitro-1H-pyrazol-5-ylamino)piperidine-1-carboxylate | 0.23 g, 57% | CN1N=CC(=C1NC1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C14H23N5O4
